US04699992
9.6 g of 3-dimethylaminoacrylonitrile and 10.5 g of triethylamine are added dropwise to a solution of 22.75 g of 2,4-dichloro-5-fluorobenzoyl chloride in 100 ml of anhydrous dioxane, while cooling in ice and stirring. The mixture is stirred at room temperature for 1 hour and then heated to boiling under reflux for 4 hours. The solvent is removed by distillation in vacuo, and the residue is taken up in methylene chloride/water. The methylene chloride phase is washed with water, dried with sodium sulphate, and evaporated in vacuo. The crystalline residue is recrystallized from ethanol. 22.2 g of 3-dimethylamino-2-(2,4-dichloro-5-fluorobenzoyl)acrylonitrile of melting point 138°-139° C. are obtained.

reactant | 3-dimethylaminoacrylonitrile | 9.6 g | CN(C=CC#N)C | C5H8N2
reactant | triethylamine | 10.5 g | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichloro-5-fluorobenzoyl chloride | 22.75 g | ClC1=C(C(=O)Cl)C=C(C(=C1)Cl)F | C7H2Cl3FO
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 3-dimethylamino-2-(2,4-dichloro-5-fluorobenzoyl)acrylonitrile | 22.2 g | CN(C=C(C#N)C(C1=C(C=C(C(=C1)F)Cl)Cl)=O)C | C12H9Cl2FN2O
